US05455152
A mixture of 45.4 g (0.2 mole) of 2-(2',4'-dihydroxyphenyl)benzotriazole, 19.8 g (0.225 mole) of ethylene carbonate and 0.55 g (0.005 mole) of tetramethylammonium chloride was heated under argon while stirring in an oil bath. The mixture changed to a brown melt as the temperature rose to 140° C. The argon gas flow was stopped at this point and the temperature was raised to 155° C. After the evolution of carbon dioxide stopped (7-8 hours), the reaction mixture was cooled to about 100° C. and then within 5 minutes 150 mL of water was added while stirring. The mixture was cooled to room temperature while stirring, at which point the semi-solid looking product crystallized. After suctioning off the solid, washing with water, and drying; 2-[2'-hydroxy, 4'-(2"-hydroxyethoxy)phenyl]benzotriazole was obtained having purity of 98% (HPLC). Yield: 51.5 g (95% of the theoretical).

reactant | 2-(2',4'-dihydroxyphenyl)benzotriazole | 0.2 mole, 45.4 g | OC1=C(C=CC(=C1)O)N1N=C2C(=N1)C=CC=C2 | C12H9N3O2
reactant | ethylene carbonate | 0.225 mole, 19.8 g | C1(OCCO1)=O | C3H4O3
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | tetramethylammonium chloride | 0.005 mole, 0.55 g | [Cl-].C[N+](C)(C)C
solvent | water | 150 mL | O | H2O
product | 2-[2'-hydroxy, 4'-(2"-hydroxyethoxy)phenyl]benzotriazole | OC1=C(C=CC(=C1)OCCO)N1N=C2C(=N1)C=CC=C2 | C14H13N3O3
